US09371280B2
In a manner similar to the method described in Example 1, chiral 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (200 mg, 0.324 mmol) was reacted with iodoethanol (Aldrich, 220 mg, 1.28 mmol) in the presence of bis(2-oxo-3-oxazolidinyl)phosphinic chloride (Aldrich, 121.6 mg, 0.478 mmol), triethylamine (203 mg, 2.00 mmol) to give chiral 2-iodoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as an off-white solid (137.4 mg, 55% yield). MS (ES+) m/z calcd. for C33H33Cl2F2IN3O4: [(M+H)+]: 770. found: 770.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 0.324 mmol, 200 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | iodoethanol | 1.28 mmol, 220 mg | IC(C)O | C2H5IO
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.478 mmol, 121.6 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 2.00 mmol, 203 mg | C(C)N(CC)CC | C6H15N
product | 2-iodoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 137.4 mg, 55% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCCI)C=C1)OC)F | C33H32Cl2F2IN3O4
